US08648081B2
Stir a mixture of 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (600 mg, 1.2 mmol), 2 drops DMF in oxalyl dichloride (5 mL) at ambient temperature for 3 hours. Remove the solvent under vacuum to afford 3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carbonyl chloride as a yellow solid (615 mg, 98%).

reactant | 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 1.2 mmol, 600 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)O)CCCC2)C(F)(F)F | C19H14Cl2F3NO3S
reactant | oxalyl dichloride | 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carbonyl chloride | 615 mg, 98% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)Cl)CCCC2)C(F)(F)F | C19H13Cl3F3NO2S
